US07579368B2
To a cooled solution of ethyl 4-methylthio-2-ethoxybenzoate (1.1 g, 4.6 mmol) in methylene chloride (40 mL) was added 3-chloroperoxybenzoic acid (1.1 g, 4.5 mmol, 77%) in several portions. The reaction mixture was stirred at 0° C. for 15 min, after which TLC (50% ethyl acetate in hexanes) showed consumption of starting material. The reaction mixture was quenched with a solution of sodium thiosulfate and neutralize with a solution of sodium bicarbonate. The product was extracted three times with methylene chloride. The organic layer was washed with sodium bicarbonate, dried over magnesium sulfate, and concentrated. Purification of the crude residue by flash column chromatography (silica gel, eluting with 50% ethyl acetate in hexanes) gave ethyl 2-ethoxy-4-methanesulfinylbenzoate as a yellow oil (0.70 g, 58%). LC-MS: 257.2 [(M+H)+].

reactant | ethyl 4-methylthio-2-ethoxybenzoate | 4.6 mmol, 1.1 g | CSC1=CC(=C(C(=O)OCC)C=C1)OCC | C12H16O3S
reactant | 3-chloroperoxybenzoic acid | 4.5 mmol, 1.1 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | ethyl 2-ethoxy-4-methanesulfinylbenzoate | 0.70 g, 58% | C(C)OC1=C(C(=O)OCC)C=CC(=C1)S(=O)C | C12H16O4S
